US07326788B2
6-Chloro-3-(5-methyl-2H-pyrazol-3-yl)-4-phenyl-1H-quinolin-2-one
Synthesized from 5-methyl-2H-pyrazol-3-yl-acetic acid and (2-amino-5-chloro-phenyl)-phenyl-methanone according to general procedure 2. Yield 23%.

reactant | 5-methyl-2H-pyrazol-3-yl-acetic acid | CC=1C=C(NN1)CC(=O)O | C6H8N2O2
reactant | (2-amino-5-chloro-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC=CC=C1 | C13H10ClNO
product | 6-Chloro-3-(5-methyl-2H-pyrazol-3-yl)-4-phenyl-1H-quinolin-2-one | Yield 23% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C=1NN=C(C1)C)C1=CC=CC=C1 | C19H14ClN3O
